US07678929B2
15.0 g (80.6 mmol) of 7,8-difluorochroman-6-ol are dissolved in 135 ml of dichloromethane, and 16.5 ml (94.2 mmol) of N-ethyldiisopropylamine are added with ice-cooling. After 5 min, 7.34 ml (97.0 mmol) of chloromethyl methyl ether are metered in the temperature range from 15 to 30° C. After 18 h at 20° C., 50 ml of triethylamine are added, and the batch is stirred again for 18 h. Water is added to the reaction mixture, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane, and the combined organic phases are washed successively with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by column chromatography (SiO2, n-heptane:MTBE=2:1), giving 7,8-difluoro-6-methoxymethoxychroman as a yellowish solid.

reactant | 7,8-difluorochroman-6-ol | 80.6 mmol, 15.0 g | FC1=C(C=C2CCCOC2=C1F)O | C9H8F2O2
reactant | N-ethyldiisopropylamine | 94.2 mmol, 16.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 97.0 mmol, 7.34 ml | COCCl | C2H5ClO
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 135 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 7,8-difluoro-6-methoxymethoxychroman | FC1=C(C=C2CCCOC2=C1F)OCOC | C11H12F2O3
